Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypoxia  

 
Major Surgical or Invasive Procedure:
Chest Tube Placement x 2

 
History of Present Illness:
___ with PMH significant for metastatic adenocarcinoma with 
unknown primary who presents with hypoxia. The patient had a 
___ on ___ with 1.5L drained, analysis then showed exuddative 
effusion with maligiant cells. 
-admitted to ___ on ___ following  pleural biopsy, chest tube 
placement, and pleurX. Biopsy grew metastatic adenocarcinoma of 
unknown primary.
-Over the following week had less drainage and pleurex was 
removed on ___. 
-The patient presents with 2 weeks of worsening shortness of 
breath and productive cough. She denies fevers and chills.  

In the ED, initial vitals: ___ RR38 79% NC. The patient 
appeared anxious and was unable to speak in full sentences. 
-placed on facemask but due to tachypnea and discomfort--> 
BIPAP.  
-Labs were unremarkable. 
-CXR showed near white out of the Rt lung field and new LLL 
opacity.
-ultrasound showed minimal pleural effusion, no pericardial 
effusion. 
-CTA chest showed a loculated nonhemorrhagic right pleural 
effusion and small left pleural effusion. There was occlusion of 
the bronchus intermedius with collapse of the right middle and 
lower lobes. 
-IP was consulted and 2 chest tubes were placed (right and 
left). The patient was transferred to the MICU for further 
management. On transfer, vitals were: 99.0 96  24 97% BIPAP.   

On arrival to the MICU, the patient reported feeling comfortable 
but throughout the course of the night her SOB worsened. IP 
infused DNAase in left chest tube and clamped at 0300. By 0500 
she was very dyspnic with frothy pink secretion and was no 
longer able to tolerate BIPAP. Placed on NR. Opened Left pigtail 
and gave 2 IV morphine.  

 
Past Medical History:
1. Metastatic adenocarcinoma, unknown primary:
- Presented with dyspnea. Thoracentesis in ___ showed 
exudative process. 
- S/p medical thoracoscopy with pleural biopsy and pleurex 
catheter placement on ___. Talc pleurodesis unable due to 
trapped lung.
- Pleural biopsy: metastatic adenocarcinoma: The tumor has an 
epithelioid morphology with an infiltrative solid and cribriform 
growth pattern,and benign-appearing mesothelial cells are lining 
the overlying pleural surface. The tumor cell morphology and 
immunohistochemical staining profile is somewhat non-specific as 
to primary site. The differential diagnosis would include upper 
GI or pancreaticobiliary
2. Mitral valve prolapse  
3. Psoriasis  
4. Hypertension  
5. Dyslipidemia  

 
Social History:
___
Family History:
Father: heart disease, prostate cancer, diabetes  
Mother: breast cancer
 
Physical Exam:
Admission physical exam:
Vitals: T: BP: P: R: 18 O2:  
GENERAL: Alert, oriented, appears fatigued.
HEENT: Sclera anicteric, unable to assess 
NECK: supple, JVP not elevated.
LUNGS: Course, rhonchorous breath sounds bilaterally; decreased 
on the right lower and middle lobes. 
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: +BS, soft, nondistended, nontender to palpation.
EXT: Warm, well perfused, 2+ pulses, no edema.  
NEURO: Appears fatigued but awakens to voice. A+Ox3.

Discharge physical exam:
T 97.9  ___   18   96 on 5L. 
General: Patient laying in bed, no acute distress. Soft spoken, 
flat affect. 
HEENT: JVP not elevated, no cervical LAD
Lungs: 2 chest tubes in place in back bilaterally, clamped. 
Crackles heard at the lower left lung field. 
CV: RRR, S1, S2. No extra sounds heard. 
Abdomen: Soft, NT/ND. BS+.
Extremities: well perfused, no ___ edema bilaterally. 

 
Pertinent Results:
Admission labs:
===================
___ 04:20PM BLOOD WBC-9.6 RBC-4.01* Hgb-12.5 Hct-36.2 
MCV-90 MCH-31.3 MCHC-34.7 RDW-13.0 Plt ___
___ 04:20PM BLOOD ___ PTT-31.7 ___
___ 04:20PM BLOOD Glucose-99 UreaN-14 Creat-0.6 Na-137 
K-4.2 Cl-102 HCO3-25 AnGap-14
___ 04:20PM BLOOD ALT-40 AST-42* AlkPhos-78 TotBili-0.2
___ 04:15AM BLOOD Calcium-8.4 Phos-5.7* Mg-2.2
___ 12:40AM BLOOD Type-ART pO2-101 pCO2-49* pH-7.35 
calTCO2-28 Base XS-0
___ 12:40AM BLOOD O2 Sat-96

Discharge labs:
===================
___ 05:00AM BLOOD WBC-11.3* RBC-3.68* Hgb-11.5* Hct-33.3* 
MCV-91 MCH-31.4 MCHC-34.6 RDW-13.3 Plt ___
___ 05:00AM BLOOD Glucose-94 UreaN-24* Creat-0.9 Na-137 
K-4.2 Cl-96 HCO3-29 AnGap-16

Imaging:
===================
___: As compared to the previous radiograph, no relevant 
change is seen.  The bilateral chest tubes are in unchanged 
position.  Unchanged extent of the large right loculated fluid 
collection.  On the left, the lung basis is better ventilated 
than on the previous image.  No evidence of pneumothorax.  Air 
collection in the right cervical soft tissues. 
.
___ CTA: 
The aorta and its major branch vessels are patent, with no 
evidence of 
stenosis, occlusion, dissection, or aneurysmal formation. There 
is no evidence of penetrating atherosclerotic ulcer or aortic 
arch atheroma present. 
  
Evaluation of the pulmonary arteries is limited by respiratory 
motion 
artifact.  No filling defect in the main and lobar pulmonary 
arteries. 
No axillary or prevascular lymphadenopathy.  Enhancing soft 
tissue in the 
subcarinal region (02:49) is concerning for lymphadenopathy.  
Additionally, in the right hilus, increased soft tissue fluid 
represent lymphadenopathy. There is a large multi-loculated 
right pleural effusion, and a small left pleural effusion. Left 
mainstem, left upper and lower lobe bronchi are patent.  The 
right upper lobe bronchus is patent, however after the takeoff 
of the right upper lobe bronchus, there is occlusion of the 
bronchus intermedius, with collapse of the right middle and 
lower lobes. In the aerated portion of the right upper lobe, 
there is peribronchovascular consolidation and ground-glass 
opacity which could represent pneumonia.  Given the history of 
malignant cells in the pleural effusion, this raises the concern 
for lymphangitic spread of tumor.  Hypoattenuating right middle 
and lower lobe consolidation is concerning for tumor or 
infection.  Additionally, hypoattenuating left lung base raises 
the concern for tumoral involvement and/or infection. This exam 
is not tailored for evaluation of the subdiaphragmatic regions, 
which are minimally included. No concerning osseous lesions. 

IMPRESSION:  
1.  No definite evidence of pulmonary embolism allowing for 
respiratory motion artifact. 
2.  Multiloculated nonhemorrhagic right pleural effusion and 
small left 
pleural effusion. 
3.  Occlusion of the bronchus intermedius with collapse of the 
right middle and lower lobes. 
4.  Bibasilar pulmonary consolidation which is hypoattenuating, 
concerning for infection/tumoral involvement. 
.
___ Imaging ABDOMEN US (COMPLETE ST: 
Final Report 
EXAMINATION:  ABDOMEN US (COMPLETE STUDY) 
  
INDICATION:  ___ year old woman with metastatic adenocarcinoma 
diagnosed by 
pleural biopsy. Path suggestive of GI primary.  // eval for mass 

  
TECHNIQUE:  Grey scale and color Doppler ultrasound images of 
the abdomen were 
obtained. 
  
COMPARISON:  CTA of the chest dated ___. 
  
FINDINGS:  
  
LIVER: The hepatic parenchyma appears within normal limits. The 
contour of the liver is smooth. There is a 1.8 x 1 x 2 cm 
hyperechoic irregular area adjacent to the common bile duct. The 
main portal vein is patent with hepatopetal flow. There is a 
small amount of ascites. 
BILE DUCTS: There is no intrahepatic biliary dilation. The CBD 
measures 4 mm. 
GALLBLADDER: There is no evidence of stones or gallbladder wall 
thickening.   
PANCREAS: Imaged portion of the pancreas appears within normal 
limits, without masses or pancreatic ductal dilation, with 
portions of the pancreatic tail obscured by overlying bowel gas. 

  
SPLEEN: Normal echogenicity, measuring 8 cm. 
  
KIDNEYS: The right kidney measures 10.8 cm.  Normal cortical 
echogenicity and corticomedullary differentiation is seen in the 
right kidney. There is no evidence of masses, stones, or 
hydronephrosis in the right kidney.  Assessment of the left 
kidney is limited. 
  
RETROPERITONEUM: Visualized portions of aorta and IVC are within 
normal 
limits.   
Note is made of a right pleural effusion which is better 
assessed on CTA of the chest dated ___. 
  
IMPRESSION:   
1.  A 2 cm irregular area of increased echogenicity adjacent to 
the common bile duct may represent focal fat, however metastatic 
disease cannot be excluded.   
2.  Small amount of ascites. 
3.  Known right pleural effusion is better assessed on CTA of 
the chest dated ___. 
.
>> PRIOR PATHOLOGY: 
- METASTATIC ADENOCARCINOMA, infiltrating dense fibrous tissue, 
see Note.
- Immunohistochemical stains show the following profile in 
lesional cells:
Positive - ___, CK7, EMA, Calretinin, CK5/6 (patchy), mCEA 
(focal), CDX-2 (rare cells)
Negative - TTF-1, Napsin-A, WT-1, D2-40, CK20, p63, PAX-8, ER, 
PR, GCDFP-15, Mammaglobin,
S100, Melan-A
- A mucicarmine stain is positive in rare tumor cells.
2. Pleural biopsy, right, #2:
___
Department of Pathology Patient: ___ 2 of 3
- METASTATIC ADENOCARCINOMA, infiltrating dense fibrous tissue, 
see Note.
Note: The tumor has an epithelioid morphology with an 
infiltrative solid and cribriform growth pattern,
and benign-appearing mesothelial cells are lining the overlying 
pleural surface. The tumor cell
morphology and immunohistochemical staining profile is somewhat 
non-specific as to primary site.
The differential diagnosis would include upper GI or 
pancreaticobiliary, and somewhat less likely
lung (given the negative TTF-1 and Napsin-A), breast (given the 
negative ER, PR, Mammaglobin,
and GCDFP-15), or ovarian/endometrial (given the negative PAX-8, 
ER, and PR), among others.
Clinical and radiologic correlation is advised.

Report History Micro:
===================
__________________________________________________________
___ 4:32 pm MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___:    No MRSA isolated. 
__________________________________________________________
___ 8:53 pm FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      LEFT PLEURAL FLUID. 

                            **FINAL REPORT ___

   Fluid Culture in Bottles (Final ___:    NO GROWTH. 
__________________________________________________________
___ 8:53 pm PLEURAL FLUID      LEFT PLEURAL FLUID. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 
__________________________________________________________
___ 4:25 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 4:10 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
This is a ___ year old female with past medical history of 
metastatic adenocarcinoma of unknown primary, known pulmonary 
metastases with malignant pleural effusion, admitted ___ 
with acute hypoxic respiratory failure secondary to large 
malignant pleural effusions and concern for acute bacterial 
pnuemonia, requiring admission to the ICU for bipap, 
subsequently found to have significant progression of cancer, 
with malignant effusions drained with bilateral chest tubes, 
which were subsequently removed, with persistent symptoms 
thought due to severe disease burden, not a candidate for 
additional chemo/XRT, discharged to inpatient hospice.
.
>> ACTIVE ISSUES: 
# Acute and Chronic Hypoxic Respiratory Failure / Lung Cancer / 
Malignant Pleural Effusion: Upon admission, patient underwent a 
CTA chest revealed loculated nonhemorrhagic right pleural 
effusion and small left pleural effusion. Patient with known 
metastatic effusion diagnosed during prior hospitalization, with 
recent removal of pleurex on ___. Patient was found to require 
face tent for oxygenation, and therefore was initially admitted 
to the ICU for respiratory monitoring. Left chest tube to water 
seal and Right chest tube to suction were placed by IP on 
___ with substantial output initially. Patient's course 
was challenging in the setting of treating the underlying cause 
which was suspected malignance. Patient has undergone workup 
revealing a metastatic adenocarcinoma, however was unable to 
isolate a primary source, although pathology concerning for a GI 
malignancy. Patient was treated with vancomycin/zosyn to cover 
for possible obstructive type infection, and this was 
down-titrated to levofloxacin to finish a course. Patient 
started to have improvement in oxygenation, requiring 
supplemental ___, however becomes acutely dyspneic upon 
movement, and unable to lay flat without feeling acutely 
dyspneic. Patient seeking second opinion (see below), regarding 
treatment. Heme/onc recommended staging tests to search for a 
primary malignancy, however, the patient was unable to lie flat 
for these tests due to her poor respiratory status. As such, 
these tests were deferred as heme/onc felt that the patient 
would almost certainly be unable to undergo chemotherapy 
regardless of the results given functional status. Radiation 
oncology was also consulted and felt treatment may not be 
helpful due to likely lymphangitic spread, and the fact that RT 
would be unlikely to sufficiently decrease her tumor burden to 
the point that her respiratory status would improve. The patient 
was gradually weaned from facemask onto a nasal cannula before 
she was called out to the floor. Patient's chest tubes were 
clamped upon arrival to the medical floor, and ultrasound done 
by IP at beside revealed no free fluid in the bases, and 
effusion in the apex not amenable to chest tube placement. 
. 
# Metastatic Adenocarcinoma of unknown primary: Diagnosed by 
pleural biopsy in ___. Per pathology, DDx includes upper GI 
or pancreaticobiliary. Patient had not yet established care with 
oncology as progression had been very quick. The patient was 
scheduled for CT head and PET scan. This could not be done 
inpatient given inability to lie flat and given extent of 
disease, it wouldn't change management from an oncology point of 
view. As above Radiation oncology was consulted who felt 
treatment may not be of great utility, and risks may outweight 
benefit given functional status. Patient had requested second 
opinion at ___, and results/imaging were faxed to ___ GI 
Malignancy Department, and reportedly reviewed by Dr. ___. 
___ aware that patient is unable to undergo CT Torso as 
requested given acute dyspnea, and planning to set patient with 
outpatient follow up. Patient was given contact information 
prior to discharge. 
. 
# Palliative Care/Goals of Care: Patient was initially admitted 
to the ICU as full code, however given grave prognosis and 
aggressive complications of underlying malignancy, social work 
and palliative care continued to work with patient and her 
family regarding optimizing her goals of care. Patient was 
transitioned to DNR/DNI per request, but with desire for 
re-hospitalization and re-transfer to the ICU if needed. Patient 
was considered for inpatient hospice given chest tubes, oxygen 
requirements, pain relievers, and acute significant decline in 
functional status, and this was arranged prior to her discharge. 
Patient was also started on mirtazapine as a sleep aid with good 
effect, and was continued on pain regimen which was controlled 
prior to discharge. 
. 
>> TRANSITIONAL ISSUES: 
# Metastatic Adenocarcinoma: Seeking ___ opinion at ___, 
patient's ___ records were sent to ___, however she was 
unable to complete a CT Torso given inability to lay flat 
safely. ___ made aware.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 25 mg PO DAILY 
2. Lovastatin 40 mg oral DAILY 
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
4. Ibuprofen 800 mg PO Q8H 
5. Ondansetron 4 mg PO Q8H:PRN nausea 

 
Discharge Medications:
1. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
2. HYDROmorphone (Dilaudid) 0.25-0.5 mg IV Q2H:PRN breakthrough 
pain/breathing/insomnia 
RX *hydromorphone 1 mg/mL 0.25-0.5 mg INJ every 2 hours Disp 
#*30 Syringe Refills:*0
3. Ipratropium-Albuterol Neb 1 NEB NEB Q4H:PRN sob 
RX *ipratropium-albuterol 0.5 mg-3 mg (2.5 mg base)/3 mL 1 NEB 
IH every 4 hours Disp #*15 Ampule Refills:*0
4. Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % (700 mg/patch) Please apply 1 patch every 
morning Disp #*30 Patch Refills:*0
5. Lorazepam 0.5 mg IV Q6H:PRN anxiety 
RX *lorazepam 2 mg/mL 0.25 mL INJ every 6 hours Disp #*5 Vial 
Refills:*0
6. Ibuprofen 800 mg PO Q8H 
7. Sertraline 25 mg PO DAILY 
8. Ondansetron 4 mg PO Q8H:PRN nausea 
9. Mirtazapine 7.5 mg PO QHS 
RX *mirtazapine 7.5 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*0
10. Sodium Chloride 0.9%  Flush 3 mL IV Q8H and PRN, line flush 
11. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
Please hold for sedation. Please try PO formulation and if 
unable to tolerate, then use IV.  
RX *hydromorphone 2 mg ___ tablet(s) by mouth every 4 hours 
Disp #*30 Tablet Refills:*0
12. Lorazepam 0.5 mg PO Q6H:PRN anxiety 
Please hold for sedation. Please try PO formulation and if 
unable to tolerate, then use IV.  
RX *lorazepam 0.5 mg 1 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 1. Malignant effusion   2. Metastatic 
Adenocarcinoma from an unknown primary

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure taking care of you during your hospital stay 
at ___. You were admitted to the 
hospital after feeling short of breath at home, and found to 
have re-accumulation of fluid in your lungs. Therefore, you were 
transferred to our intensive care unit, and seen by our 
interventional pulmonary specialists who placed a chest tube to 
help drain this fluid. You started to have improvement in your 
symptoms, and were then discharged to the medical floor at which 
point it was decided to remove the chest tubes.

We have discussed that this fluid is the result of an underlying 
cancer, and you were seen by our radiation oncologists and 
medical oncologists. We have arranged for you to be discharged 
with services, and we have also started the process of a second 
opinion at ___. 

Take Care,
Your ___ Team. 
 
Followup Instructions:
___